US07012084B2
Step A: Preparation of (S)-4-benzyl-3-[(2E)-3-(4-chlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one
An oven-dried, three-necked, 1 L 24/40 round-bottom flask equipped with a mechanical stirrer, a septum and a nitrogen inlet was charged with a solution of 20.00 g (0.110 mol) of 4-chlorocinnamic acid in 400 mL of anhydrous tetrahydrofuran. The reaction mixture was purged with nitrogen and stirred at −20° C. and then 19.93 mL (0.143 mol) of triethylamine and 14.84 mL (0.120 mol) of pivaloyl chloride were added via syringe. The reaction mixture was stirred at −20° C. for 30 min, then at room temperature for 1.5 h. A separate, oven-dried, three-necked, 2 L 24/40 round-bottom flask was equipped with a mechanical stirrer, and a nitrogen inlet. The contents were purged with nitrogen gas and then charged with 16.243 g (0.092 mol) of (S)-(−)-4-benzyl-2-oxazolidinone, 4.274 g (0.101 mol) of finely powdered anhydrous lithium chloride, 400 mL of anhydrous tetrahydrofuran and 16.61 mL (0.119 mol) of triethylamine. The reaction flask was fitted with an oven-dried fritted vacuum filtration funnel in one of its necks, and the reaction mixture was stirred at −20° C. The mixed anhydride prepared in the first reaction flask was separated from precipitated triethylamine hydrochloride by rapid filtration into the second flask with the aid of a slight vacuum applied to the filtration funnel. The reaction mixture in the second flask was again purged with nitrogen, stirred for 30 min at −20° C., then allowed to warm to room temperature and stirred an additional 5 h. At this point the reaction mixture was filtered again and concentrated in vacuo. The crystalline residue was dissolved in methylene chloride, washed with 0.5 M hydrochloric acid, water, saturated aqueous sodium bicarbonate, brine, then dried (MgSO4), filtered and evaporated. The residue was purified by rapid filtration through a six inch bed of silica gel 60 eluted with methylene chloride. Evaporation of the purified fractions and drying in vacuo afforded 23.38 g of the title compound.

reactant | 4-chlorocinnamic acid | 0.110 mol, 20.00 g | ClC1=CC=C(C=CC(=O)O)C=C1 | C9H7ClO2
reactant | triethylamine | 0.143 mol, 19.93 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.120 mol, 14.84 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (S)-(−)-4-benzyl-2-oxazolidinone | 0.092 mol, 16.243 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | lithium chloride | [Cl-].[Li+]
reactant | triethylamine | 0.119 mol, 16.61 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | (S)-4-benzyl-3-[(2E)-3-(4-chlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one | 23.38 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=CC=C(C=C1)Cl)=O | C19H16ClNO3
